US09145407B2
5-Chloro-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide
A suspension of 5-chloro-2,4-difluorobenzenesulfonyl chloride (1.99 g, 8.05 mmol) in dichloromethane (15 mL) was added portion-wise to a solution of 5-fluoro-pyrimidin-2-ylamine (1.00 g, 8.84 mmol) in pyridine (15 mL) at 0° C. The reaction mixture was then allowed to warm to ambient temperature gradually and stirred for 16 hours. The reaction mixture was diluted with dichloromethane and partitioned with 1 N aqueous hydrogen chloride solution. The layers were separated and the aqueous layer extracted with dichloromethane. The combined organic layers were washed with water, diluted with ethyl acetate, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue was purified by automated silica gel column chromatography (100% chloroform to 10% methanol in chloroform gradient elution) to afford the title compound as a light yellow solid (0.32 g).

reactant | 5-chloro-2,4-difluorobenzenesulfonyl chloride | 8.05 mmol, 1.99 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)F)F | C6H2Cl2F2O2S
reactant | 5-fluoro-pyrimidin-2-ylamine | 8.84 mmol, 1.00 g | FC=1C=NC(=NC1)N | C4H4FN3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-2,4-difluoro-N-(5-fluoropyrimidin-2-yl)benzenesulfonamide | 0.32 g | ClC=1C(=CC(=C(C1)S(=O)(=O)NC1=NC=C(C=N1)F)F)F | C10H5ClF3N3O2S
